US06191304B1
b) 10,11-Dihydro-3-methoxy-5H-dibenzo[a,d]cyclohepten-10-one
A solution of 2-benzyl-4-methoxyphenylacetic acid (14.2 g, 0.055 m) in benzene (120 mL) and thionyl chloride (28 mL) was refluxed for 1 hour and concentrated. The acid chloride was dissolved in dry methylene chloride (40 mL), and the solution was added dropwise under argon to a solution of AlCl3 (14.7 g, 0.11 mol) in methylene chloride (600 mL). The reaction was stirred under an argon atmosphere for 2.5 hours at room temperature, then was quenched with ice-water (200 mL). The layers were separated, and the organic phase was washed sequentially with 10% NaOH solution, water, and dil. HCl. The resulting solution was diluted with ether (200 mL), dried over MgSO4, and concentrated. The solid residue was triturated with ether/hexane (1:1) and 9.35 g of the title compound was collected by filtration: Mp 105-106° C.; 1H NMR (400 MHz, CDCl3) δ 3.72 (s, 3H), 4.1 (s, 2H), 4.2 (s, 2H), 6.7 (d, 1H), 6.82 (s, 1H), 7.30 (m, 4H), 8.1 (d, 1H).

reactant | 2-benzyl-4-methoxyphenylacetic acid | 14.2 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)OC)CC(=O)O | C16H16O3
reactant | AlCl3 | 0.11 mol, 14.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | benzene | 120 mL | C1=CC=CC=C1 | C6H6
solvent | thionyl chloride | 28 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 600 mL | C(Cl)Cl | CH2Cl2
product | 10,11-Dihydro-3-methoxy-5H-dibenzo[a,d]cyclohepten-10-one | COC=1C=CC2=C(CC3=C(C(C2)=O)C=CC=C3)C1 | C16H14O2
